US07906654B2
2-(7-Chloro-1H-benzimidazol-1-yl)-N-[4-(1-cyano-1-methylethyl)-3-fluorobenzyl]acetamide is synthesized according to example 14 with (7-chloro-1H-benzimidazol-1-yl)acetic acid (150 mg, 0.712 mmol) prepared according to scheme 1, and 2-[4-(aminomethyl)-2-fluorophenyl]-2-methylpropanenitrile hydrochloride (196 mg, 0.855 mmol) prepared according to scheme 8, Et3N (238 μL, 1.71 mmol) and HATU (325 mg, 0.855 mmol) in DMF (3.0 mL). The product is purified by HPLC: Gilson prep pumps, Flow rate: 30 ml/min, Column: Gemini (5%) 21.2×50 mm, Mobile phase: A=water (0.075% TFA) B=MeCN (0.075% TFA). Yield=14 mg as TFA salt, 0.035 mmol, 5%); 1H NMR (400 MHz, DMSO-D6) δ ppm 1.67 (s, 6H), 4.30 (d, J=5.86 Hz, 2H), 5.24 (s, 2H), 7.10-7.22 (m, 3H), 7.23-7.28 (m, 1H), 7.38 (t, J=8.40 Hz, 1H), 7.62 (d, J=7.81 Hz, 1H), 8.31 (s, 1H), 8.81 (s, 1H). MS [M+H], calcd: 385.1, found: 385.0.

reactant | (7-chloro-1H-benzimidazol-1-yl)acetic acid | 0.712 mmol, 150 mg | ClC1=CC=CC2=C1N(C=N2)CC(=O)O | C9H7ClN2O2
reactant | 2-[4-(aminomethyl)-2-fluorophenyl]-2-methylpropanenitrile hydrochloride | 0.855 mmol, 196 mg | Cl.NCC1=CC(=C(C=C1)C(C#N)(C)C)F
reactant | Et3N | 1.71 mmol, 238 μL | CCN(CC)CC | C6H15N
reactant | HATU | 0.855 mmol, 325 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 3.0 mL | CN(C)C=O | C3H7NO
product | 2-(7-Chloro-1H-benzimidazol-1-yl)-N-[4-(1-cyano-1-methylethyl)-3-fluorobenzyl]acetamide | ClC1=CC=CC2=C1N(C=N2)CC(=O)NCC2=CC(=C(C=C2)C(C)(C)C#N)F | C20H18ClFN4O
